US04617395
The procedure described in Example 1 was followed, except that 130 g/hour of 2-chloroaniline and 84 g/hour of crotonaldehyde were employed. Distillation from the oil bed under 5 mbar until the bottom temperature reached 250° C., and crystallization of the distillate with xylene, gave 101 g (57% of theory) of 8-chloro-2-methylquinoline of melting point 64° C.

reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
product | 8-chloro-2-methylquinoline | 101 g, 57% | ClC=1C=CC=C2C=CC(=NC12)C | C10H8ClN
